US08383644B2
(S)-2-{[(3S,8S)-3-[4-(2,6-Dichloro-benzyloxy)-phenyl]-7-((R)-1-phenyl-ethylcarbamoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
(3S,8S)-8-{(S)-2-[4-(2,3-Dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethyl-carbamoyl}-3-(4-hydroxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester was dissolved in DMF and 2,6-dichlorobenzyl bromide (2 eq.) and potassium carbonate (3 eq.) was added. The reaction mixture was stirred at room temperature and was poured onto EtOAc and water. The organic layer was dried over sodium sulfate and concentrated. The mixture was purified over silica (hexanes to 1:1 hexanes EtOAc to 1:1 hexanes EtOAc+1% MeOH). The resulting compound was dissolved in 2 mL DCM and 1 mL 4N HCl (dioxane) was added. The mixture stirred at room temperature for 1.5 hours and was concentrated. The residue was suspended in DCM, TEA (3 eq.) added and the mixture used in the following reaction sequence. ((R)-1-isocyanato-ethyl)-benzene (5 eq.) was added and the reaction was stirred at room temperature for 1 hour. The reaction mixture was directly purified over silica (hexanes to 1:1 hexanes EtOAc to 1:1 hexanes EtOAc+1% MeOH to 1:1 hexanes EtOAc+2% MeOH to 1:1 hexanes EtOAc+3% MeOH). The resulting compound was hydrolyzed according to General Procedure B to give the title compound (5 mg). LCMS (m/z): 886.

reactant | (3S,8S)-8-{(S)-2-[4-(2,3-Dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethyl-carbamoyl}-3-(4-hydroxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)C(=O)OC)=O)OC[C@@H](O3)C3=CC=C(C=C3)O | C40H43N3O8
reactant | 2,6-dichlorobenzyl bromide | 2 eq. | ClC1=C(CBr)C(=CC=C1)Cl | C7H5BrCl2
reactant | potassium carbonate | 3 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | ((R)-1-isocyanato-ethyl)-benzene | 5 eq. | N(=C=O)[C@H](C)C1=CC=CC=C1 | C9H9NO
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)-2-{[(3S,8S)-3-[4-(2,6-Dichloro-benzyloxy)-phenyl]-7-((R)-1-phenyl-ethylcarbamoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | 5 mg | ClC1=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)C(N[C@H](C)C3=CC=CC=C3)=O)C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)C3=C(C(=NC=C3)C)C)OC2)C(=CC=C1)Cl | C50H46Cl2N4O7
